US07723330B2
Step B: Preparation of 5-(4-(benzyloxy)-3-fluorophenyl)-2-(cyclohexylmethyl)-3-methylpyrimidin-4(3H)-one:
A suspension of 5-bromo-2-(cyclohexylmethyl)-3-methylpyrimidin-4(3H)-one (0.047 g, 0.165 mmol), 4-(benzyloxy)-3-fluorophenylboronic acid (0.049 g, 0.198 mmol), Pd(PPh3)4 (0.009 g, 0.008 mmol) and lithium chloride (0.028 g, 0.659 mmol) in dioxane (1 mL) and 2 M aqueous Na2CO3 (1 mL) was stirred at 100° C. for 1 hour. The reaction mixture was cooled to room temperature and then partitioned between EtOAc and H2O. The layers were separated and the aqueous layer was re-extracted with EtOAc (1×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by flash column chromatography, eluting with 10:1 CH2Cl2/EtOAc. The product was obtained (0.048 g; 72%) as an off-white solid. LRMS (APCI pos) m/e 407 (M+1).

reactant | 5-bromo-2-(cyclohexylmethyl)-3-methylpyrimidin-4(3H)-one | 0.165 mmol, 0.047 g | BrC=1C(N(C(=NC1)CC1CCCCC1)C)=O | C12H17BrN2O
reactant | 4-(benzyloxy)-3-fluorophenylboronic acid | 0.198 mmol, 0.049 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | lithium chloride | 0.659 mmol, 0.028 g | [Cl-].[Li+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.008 mmol, 0.009 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-(benzyloxy)-3-fluorophenyl)-2-(cyclohexylmethyl)-3-methylpyrimidin-4(3H)-one | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(N(C(=NC1)CC1CCCCC1)C)=O)F | C25H27FN2O2
